US07576215B2
2-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-4-METHOXYPHENOL
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 2-hydroxy-5-methoxy-benzaldehyde according to the procedure of Example 66. MS (ES) m/z 513.0.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 2-hydroxy-5-methoxy-benzaldehyde | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
product | 2-[({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)METHYL]-4-METHOXYPHENOL | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=C(C=CC(=C1)OC)O)C(F)(F)F | C31H25F3N2O2
